US05776963
A stirred mixture of 4hydroxy-3-methoxyacetophenone (16.6 g, 10 mmole), K2CO3 (14 g, 100 mmol) and cis-1,4-dichloro-2-butene (Aldrich, 15 g, 120 mmol) in acetonitrile (250 ml) was heated at reflux for 2.5 hours. The mixture was filtered and concentrated to an oil. Purification was by flash chromatography. The fractions containing the purest product were combined and concentrated to give white crystals, 7.7 g, 30%. This was recrystallized from ether to give analytical pure (Z)1-[[(4-chloro-2-butenyl)oxy]-3-methoxyphenyl]ethanone (2.72 g), m.p.=6466.

reactant | 4hydroxy-3-methoxyacetophenone | 10 mmole, 16.6 g | CC(=O)C1=CC(=C(C=C1)O)OC | C9H10O3
reactant | K2CO3 | 100 mmol, 14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cis-1,4-dichloro-2-butene | 120 mmol, 15 g | ClC\C=C/CCl | C4H6Cl2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | (Z)1-[[(4-chloro-2-butenyl)oxy]-3-methoxyphenyl]ethanone | 2.72 g | ClC\C=C/COC1=C(C=CC=C1OC)C(C)=O | C13H15ClO3
